US05710150
In 150 ml of tetrahydrofuran was dissolved 3.55 ml of diisopropylamine, and 14.9 ml of n-butyllithium was added dropwise while stirring at -78° C. in an atmosphere of argon. After 30 minutes of stirring under ice-cooling, the reaction mixture was cooled to -78° C., 60 ml of tetrahydrofuran solution containing 6.39 g of 1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one was added dropwise thereto and the resulting mixture was stirred for 30 minutes. Then, 90 ml of tetrahydrofuran solution containing 8.94 g of N-fluorobenzenesulfonimide was added dropwise, and the mixture was stirred for 1 hour while gradually increasing the temperature to 0° C. After adding saturated ammonium chloride aqueous solution to the reaction solution, the mixture was concentrated under a reduced pressure. Ethyl acetate was added thereto to separate the water layer, and the organic layer was washed with saturated sodium thiosulfate aqueous solution, saturated sodium bicarbonate aqueous solution and saturated sodium chloride aqueous solution in that order. The organic layer was then dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. The resulting residue was applied to silica gel column chromatography, which was eluted with chloroform to obtain 5.31 g of 4-fluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one.

reactant | 1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 6.39 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CCCC(C2=C1C=CC=C2)=O | C17H17NO3S
reactant | N-fluorobenzenesulfonimide | 8.94 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | diisopropylamine | 3.55 ml | C(C)(C)NC(C)C | C6H15N
solvent | n-butyllithium | 14.9 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-fluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 5.31 g | FC1CCN(C2=C(C1=O)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H16FNO3S
